US07495103B2
To a solution of (3-nitro-4-propyl-phenyl)-carbamic acid tert-butyl ester (200 mg, 0.71 mmol) in DMF (5 mL) was added Ag2O (1.0 g, 6.0 mmol) followed by methyl iodide (0.20 mL, 3.2 mmol). The resulting suspension was stirred at room temperature for 18 h and filtered through a pad of Celite. The filter cake was washed with CH2Cl2 (10 mL). The filtrate was concentrated in vacuo. The crude oil was purified by column chromatography (0-10% CH2Cl2-MeOH) to afford methyl-(3-nitro-4-propyl-phenyl)-carbamic acid tert-butyl ester as a yellow oil (110 mg, 52%). 1H NMR (CDCl3, 300 MHz) δ 7.78 (d, J=2.2 Hz, 1H), 7.42 (dd, J=8.2, 2.2 Hz, 1H), 7.26 (d, J=8.2 Hz, 1H), 3.27 (s, 3H), 2.81 (t, J=7.7 Hz, 2H), 1.66 (m, 2H), 1.61 (s, 9H), 0.97 (t, J=7.4 Hz, 3H).

reactant | (3-nitro-4-propyl-phenyl)-carbamic acid tert-butyl ester | 0.71 mmol, 200 mg | C(C)(C)(C)OC(NC1=CC(=C(C=C1)CCC)[N+](=O)[O-])=O | C14H20N2O4
reactant | methyl iodide | 3.2 mmol, 0.20 mL | CI | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | methyl-(3-nitro-4-propyl-phenyl)-carbamic acid tert-butyl ester | 110 mg, 52% | C(C)(C)(C)OC(N(C1=CC(=C(C=C1)CCC)[N+](=O)[O-])C)=O | C15H22N2O4
